US08912169B2
Step 8: Synthesis of (R,E)-N-((trans-4-(2-(benzyloxy)ethyl)cyclohexyl)methylene)-2-methylpropane-2-sulfinamide
To a solution of (trans-4-(2-(benzyloxy)ethyl)cyclohexanecarbaldehyde (6.45 g, 26.18 mmol) and (R)-(+)-tert-butylsulfinamide (3.49 g, 28.8 mmol) in THF (66 mL) was added titanium(IV) ethoxide (8.78 mL, 41.89 mmol) under N2. The resulting solution was stirred at rt for 20 h and quenched by addition of saturated NaHCO3 solution dropwise. The mixture was vigorously stirred for 30 min and filtered through a pad of Celite, concentration. Purification by flash column chromatography (eluent: 20% EtOAc in hexanes to 30%) gave the titled product (8.38 g, 92%). LC/MC: 350.1 (MH)

reactant | trans-4-(2-(benzyloxy)ethyl)cyclohexanecarbaldehyde | 26.18 mmol, 6.45 g | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)C=O | C16H22O2
reactant | (R)-(+)-tert-butylsulfinamide | 28.8 mmol, 3.49 g | C(C)(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 66 mL | C1CCOC1 | C4H8O
catalyst | titanium(IV) ethoxide | 41.89 mmol, 8.78 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (R,E)-N-((trans-4-(2-(benzyloxy)ethyl)cyclohexyl)methylene)-2-methylpropane-2-sulfinamide | 8.38 g, 92% | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)\C=N\[S@](=O)C(C)(C)C | C20H31NO2S
